US07638515B2
[2-Methoxy-3-(4,4,4-trifluoro-3-hydroxy-3-formyl-1,1-dimethylbutyl)phenyl]acetonitrile
0.26 ml (2.99 mmol) of oxalyl chloride is cooled in 6.6 ml of dichloromethane to −78° C. After dropwise addition of 0.42 ml (5.98 mmol) of dimethyl sulfoxide, dissolved in 1.2 ml of dichloromethane, it is stirred for 10 more minutes and then 900 mg (2.72 mmol) of [2-methoxy-3-(4,4,4-trifluoro-3-hydroxy-3-hydroxymethyl-1,1-dimethylbutyl)phenyl]acetonitrile in 2.6 ml of dichloromethane is added in drops. After two hours of stirring at −78° C., 1.88 ml (13.58 mmol) of triethylamine is added in drops, the batch is allowed to come to room temperature, and then it is stirred for 1½ hours at room temperature. After mixing with water, it is extracted three times with dichloromethane. The combined organic extracts are washed with 1% sulfuric acid, with saturated sodium bicarbonate solution and with brine. After the solvent is dried and spun off, the residue is chromatographed on a Flashmaster. 599.4 mg (67.1%) of the desired aldehyde remains.

reactant | oxalyl chloride | 2.99 mmol, 0.26 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 5.98 mmol, 0.42 ml | CS(=O)C | C2H6OS
reactant | [2-methoxy-3-(4,4,4-trifluoro-3-hydroxy-3-hydroxymethyl-1,1-dimethylbutyl)phenyl]acetonitrile | 2.72 mmol, 900 mg | COC1=C(C=CC=C1C(CC(C(F)(F)F)(CO)O)(C)C)CC#N | C16H20F3NO3
reactant | triethylamine | 13.58 mmol, 1.88 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 6.6 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1.2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2.6 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | [2-Methoxy-3-(4,4,4-trifluoro-3-hydroxy-3-formyl-1,1-dimethylbutyl)phenyl]acetonitrile | COC1=C(C=CC=C1C(CC(C(F)(F)F)(C=O)O)(C)C)CC#N | C16H18F3NO3
